US06482835B2
In a mixed solvent of 50.6 ml of water and 50.6 ml of diethylene glycol dimethyl ether is suspended 13.5 g of 2-[(1R)-1-methyl-2-trityl-2,3-dihydro-1H-5-isoindolyl]-1,3,6,2-dioxazaborocane and to this suspension is added 1.58 ml of acetic acid, after which the resulting mixture is stirred for 30 minutes. To this mixture are further added 10.1 g of ethyl 7-bromo-1-cyclopropyl-8-difluoromethoxy-1,4-dihydro-4-oxoquinoline-3-carboxylate, 5.59 g of sodium carbonate and 0.088 g of bis(triphenylphosphine)-palladium(II) chloride, and the resulting mixture is heated under reflux for 2 hours in a nitrogen atmosphere. The reaction mixture is cooled to 40° C. and thereafter the organic layer is separated. To the organic layer obtained is added 30 ml of ethanol and the crystals deposited are collected by filtration to obtain 17.3 g of ethyl 1-cyclopropyl-8-difluoromethoxy-7-[(1R)-1-methyl-2-trityl-2,3-dihydro-1H-5-isoindolyl]-4-oxo-1,4-dihydro-3-quinolinecarboxylate. The physical property values of this compound were identical with those of the compound obtained in Production Example II-1.

reactant | water | 50.6 ml | O | H2O
reactant | 2-[(1R)-1-methyl-2-trityl-2,3-dihydro-1H-5-isoindolyl]-1,3,6,2-dioxazaborocane | 13.5 g | C[C@H]1N(CC2=CC(=CC=C12)B1OCCNCCO1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H33BN2O2
reactant | ethyl 7-bromo-1-cyclopropyl-8-difluoromethoxy-1,4-dihydro-4-oxoquinoline-3-carboxylate | 10.1 g | BrC1=CC=C2C(C(=CN(C2=C1OC(F)F)C1CC1)C(=O)OCC)=O | C16H14BrF2NO4
reactant | sodium carbonate | 5.59 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 0.088 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | acetic acid | 1.58 ml | C(C)(=O)O | C2H4O2
solvent | diethylene glycol dimethyl ether | 50.6 ml | COCCOCCOC | C6H14O3
product | ethyl 1-cyclopropyl-8-difluoromethoxy-7-[(1R)-1-methyl-2-trityl-2,3-dihydro-1H-5-isoindolyl]-4-oxo-1,4-dihydro-3-quinolinecarboxylate | 17.3 g | C1(CC1)N1C=C(C(C2=CC=C(C(=C12)OC(F)F)C=1C=C2CN([C@@H](C2=CC1)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)OCC | C44H38F2N2O4
